US05488140
7.0 g (21.8 mmol) of 6-benzyloxy-2-formylamino-3-hydroxy-4-methylene-hexanoic acid ethyl ester are dissolved in 70 ml of dichloromethane, and 2.0 ml (26.1 mmol) of thionyl bromide are added dropwise at room temperature. After 2 hours, 40 ml of water are added and the mixture is stirred vigorously for 10 minutes. The organic phase is separated off, washed in succession with water, N-KHCO3 solution and again with water, dried over MgSO4, filtered and concentrated by evaporation. 6-benzyloxy-4-bromomethyl-2-formylamino-hex-3-enoic acid ethyl ester is obtained in the form of a reddish-brown oil which can be reacted further without purification.

reactant | 6-benzyloxy-2-formylamino-3-hydroxy-4-methylene-hexanoic acid ethyl ester | 21.8 mmol, 7.0 g | C(C)OC(C(C(C(CCOCC1=CC=CC=C1)=C)O)NC=O)=O | C17H23NO5
reactant | thionyl bromide | 26.1 mmol, 2.0 ml | S(=O)(Br)Br | Br2OS
reactant | water | 40 ml | O | H2O
solvent | dichloromethane | 70 ml | ClCCl | CH2Cl2
product | 6-benzyloxy-4-bromomethyl-2-formylamino-hex-3-enoic acid ethyl ester | C(C)OC(C(C=C(CCOCC1=CC=CC=C1)CBr)NC=O)=O | C17H22BrNO4
